US05179100
11-Amino-4,5-dihydro-1-methyl-1H-pyrazolo[3,4-a]acridine
3,4-Dihydro-2-[(dimethylamino)methylene]-9-[[(dimethylamino)methylene]amino]acridin-1-(2H)-one (3.0 g) was refluxed for 60 min in 150 mL of EtOH containing 8.0 g of methylhydrazine. At the end of this time the solvent was evaporated under reduced pressure and then the residue was adhered to silica with MeOH. Purification by flash chromatography (toluene:MeOH:Et3N, 19:1:1) gave 1.71 g of material which was pure to TLC. This was combined with the product of another run of smaller size and recrystallized from toluene to give analytically pure product, mp 240° (d).

reactant | 3,4-Dihydro-2-[(dimethylamino)methylene]-9-[[(dimethylamino)methylene]amino]acridin-1-(2H)-one | 3.0 g | CN(C)C=C1C(C2=C(C3=CC=CC=C3N=C2CC1)N=CN(C)C)=O | C19H22N4O
reactant | methylhydrazine | CNN | CH6N2
solvent | EtOH | 150 mL, 8.0 g | CCO | C2H6O
product | 11-Amino-4,5-dihydro-1-methyl-1H-pyrazolo[3,4-a]acridine | 1.71 g | NC=1C2=CC=CC=C2N=C2CCC3=C(C12)N(N=C3)C | C15H14N4
